US06599917B1
e) 3-Phenyl-5-benzyl-6-pyridazyl Trifluoromethanesulfonate
10 ml of 47% hydrobromic acid was added to 1.31 g of 3-phenyl-5-benzyl-6-methoxypyridazine, followed by heating under stirring in an oil bath kept at 90° C. for 3 hours. After cooling as it was, the reaction solution was added little by little to an aqueous potassium carbonate solution to neutralize. After extracting with ethyl acetate, the organic phase was washed with brine and the solvent was removed, to give 1.18 g of a crude product. A mixture of 1.18 g of the crude product, 1.93 g of N-phenyltrifluoromethanesulfonimide, 165 mg of 4-dimethylaminopyridine, 943 μl of triethylamine and 10 ml of dichloromethane was stirred at room temperature overnight. After the reaction solution was concentrated, the residue was subjected to silica gel chromatography to elute with hexane/ethyl acetate (10:1) and then with hexane/ethyl acetate (7:1), to give 484 mg of the target compound.

reactant | hydrobromic acid | 10 ml | Br | BrH
reactant | 3-phenyl-5-benzyl-6-methoxypyridazine | 1.31 g | C1(=CC=CC=C1)C=1N=NC(=C(C1)CC1=CC=CC=C1)OC | C18H16N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N-phenyltrifluoromethanesulfonimide | 1.93 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
catalyst | 4-dimethylaminopyridine | 165 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | triethylamine | 943 μl | C(C)N(CC)CC | C6H15N
product | 3-Phenyl-5-benzyl-6-pyridazyl Trifluoromethanesulfonate | 484 mg | FC(S(=O)(=O)OC1=C(C=C(N=N1)C1=CC=CC=C1)CC1=CC=CC=C1)(F)F | C18H13F3N2O3S
